US04289865
To a solution of 15.00 g (0.08 mole) of N-methyl-4-hydroxybenzenesulfonamide, 8.11 g (0.08 mole) of triethylamine and 200 ml of methylene chloride cooled to 0° C. was added a solution of 8.37 g (0.08 mole) of methacryloyl chloride in 100 ml of methylene chloride over a period of approximately 30 minutes. The solution was then stirred for another 3 hours with cooling; washed once with 100 ml of 2 percent HCl solution, and twice with water; dried over magnesium sulfate and concentrated in vacuo in a warm water bath. The resultant solid was recrystallized from 150 ml of ethyl alcohol:water (1:1) with filtering through diatomaceous earth. Collection of the white solid and drying at room temperature in vacuo gave 16.20 g (79.9 percent of theory) of N-methyl-4-methacryloyloxybenzenesulfonamide; m.p.=106° to 107° C.

reactant | N-methyl-4-hydroxybenzenesulfonamide | 0.08 mole, 15.00 g | CNS(=O)(=O)C1=CC=C(C=C1)O | C7H9NO3S
reactant | triethylamine | 0.08 mole, 8.11 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.08 mole, 8.37 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-4-methacryloyloxybenzenesulfonamide | 16.20 g, 79.9 percent | CNS(=O)(=O)C1=CC=C(C=C1)OC(C(=C)C)=O | C11H13NO4S
